US04429152
3.5 g of sodium nitrite is introduced at 5° C. under agitation into 42 ml of concentrated sulfuric acid, stirred for 10 minutes, and then heated to 70° C. until a clear solution is obtained. After cooling to 5° C., 21 ml of glacial acetic acid is added under cooling in an ice bath. Then 16 g of 3-(3-amino-2,4,6-tribromophenyl)propionic acid is introduced in incremental portions between 0° and 5° C., and the mixture is agitated for 2 hours at 5° C. The mixture is poured on 200 g of ice and then under agitation is introduced into a solution of 18 g of copper(I) cyanide and 33.5 g of potassium cyanide in 450 ml of semiconcentrated ammonia, thus liberating nitrogen. The solution is saturated with sodium chloride and stirred overnight under water cooling. The thus-separated ammonium salt is vacuum-filtered and dissolved in the moist state in 200 ml of water. The solution is brought to pH 1 after treatment with activated carbon, by the addition of concentrated hydrochloric acid. After stirring for several hours in an ice bath, the precipitate is vacuum-filtered, washed with water, and dried at 50° C., thus producing 13 g (83% of theory) of 3-(3-cyano-2,4,6-tribromophenyl)propionic acid as a white powder, mp 164°-166° C.

reactant | sodium nitrite | 3.5 g | N(=O)[O-].[Na+]
reactant | sulfuric acid | 42 ml | S(O)(O)(=O)=O | H2O4S
reactant | 3-(3-amino-2,4,6-tribromophenyl)propionic acid | 16 g | NC=1C(=C(C(=CC1Br)Br)CCC(=O)O)Br | C9H8Br3NO2
reactant | copper(I) cyanide | 18 g | [Cu]C#N
reactant | potassium cyanide | 33.5 g | [C-]#N.[K+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | ammonia | 450 ml | N | H3N
solvent | acetic acid | 21 ml | C(C)(=O)O | C2H4O2
product | 3-(3-cyano-2,4,6-tribromophenyl)propionic acid | 13 g, 83% | C(#N)C=1C(=C(C(=CC1Br)Br)CCC(=O)O)Br | C10H6Br3NO2
